US07465742B2
3-Amino-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide hydrochloride (2)
To a suspension of 3-amino-2-carbamoyl-4-thiophen-2-yl-5,7-dihydro-1-thia-6,8-diaza-s-indacene-6-carboxylic acid tert-butyl ester (4 g, 9.6 mmol)) in 70 ml of anhydrous methanol was added dropwise 7 ml of acetyl chloride under argon. The resulting mixture was stirred for 48 hours at room temperature. The solid was filtered and washed with methanol to give 3.14 g (93%) of the yellow product as its hydrochloride salt. 1H-NMR (300 MHz, DMSO-d6): δ 10.20 (brs, 2H), 7.96 (dd, J=1.2, 5.1 Hz, 1H), 7.36 (dd, J=1.2, 3.6 Hz, 1H), 7.32 (brs, 2H), 7.31 (dd, J=3.6, 5.1 Hz, 1H), 6.02 (brs, 2H), 4.63 (s, 2H), 4.42 (s, 2H). ES MS m/z 317 (M+H)+, 315 (M−H)−.

reactant | 3-amino-2-carbamoyl-4-thiophen-2-yl-5,7-dihydro-1-thia-6,8-diaza-s-indacene-6-carboxylic acid tert-butyl ester | 9.6 mmol, 4 g | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=C(SC3=NC2C1)C(N)=O)N)C=1SC=CC1 | C19H20N4O3S2
reactant | acetyl chloride | 7 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 70 ml | CO | CH4O
product | 3-Amino-4-thiophen-2-yl-6,7-dihydro-5H-1-thia-6,8-diaza-s-indacene-2-carboxylic acid amide hydrochloride | 3.14 g, 93% | Cl.NC1=C(SC2=NC=3CNCC3C(=C12)C=1SC=CC1)C(=O)N | InChI=1S/C14H12N4OS2.ClH/c15-11-10-9(8-2-1-3-20-8)6-4-17-5-7(6)18-14(10)21-12(11)13(16)19;/h1-3,17H,4-5,15H2,(H2,16,19);1H
